US07884109B2
Under an Ar atmosphere, a catalytic amount of a Raney Ni solution in water was added to a solution of (R)—N2-(2-(2,4-dimethoxybenzylamino)-4-fluorophenyl)-N4-(8-fluorochroman-4-yl)-5-nitropyrimidine-2,4-diamine (21 mg) in THF. The flask was closed with a septum, evacuated under house vacuum and hydrogen added via balloon. The resulting suspension was stirred at RT for 2 hr, when the H2 balloon was removed, the mixture evacuated and filtered through a plug of celite, that was thoroughly rinsed with THF and MeOH, to yield (R)—N2-(2-(2,4-dimethoxybenzylamino)-4-fluorophenyl)-N4-(8-fluorochroman-4-yl)pyrimidine-2,4,5-triamine that was used directly.

reactant | (R)—N2-(2-(2,4-dimethoxybenzylamino)-4-fluorophenyl)-N4-(8-fluorochroman-4-yl)-5-nitropyrimidine-2,4-diamine | 21 mg | COC1=C(CNC2=C(C=CC(=C2)F)NC2=NC=C(C(=N2)N[C@@H]2CCOC3=C(C=CC=C23)F)[N+](=O)[O-])C=CC(=C1)OC | C28H26F2N6O5
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Ni | [Ni] | Ni
product | (R)—N2-(2-(2,4-dimethoxybenzylamino)-4-fluorophenyl)-N4-(8-fluorochroman-4-yl)pyrimidine-2,4,5-triamine | COC1=C(CNC2=C(C=CC(=C2)F)NC2=NC=C(C(=N2)N[C@@H]2CCOC3=C(C=CC=C23)F)N)C=CC(=C1)OC | C28H28F2N6O3
